US07462619B2
2-Chloro-5-ethylpyrimdine (500 mg, 3.5 mmol), PdCl2(PPh3)2 (250 mg, 0.35 mmol), CuI (203 mg, 1.06 mmol), triethylamne (6.0 mL, 43 mmol), and n-Bu4NI (3.85 g, 10.4 mmol) were combined in dimethylformamide (DMF) (30 mL). The mixture was cooled in an ice bath and then phenylacetylene (1.5 mL, 14 mmol) was added. The reaction mixture was then heated to 45-50° C. and after 1.5 h, additional phenylacetylene (1.5 mL, 14 mmol) was added. After an additional 17 h the reaction was diluted with ethyl acetate, washed with brine (4.times.15 mL), dried over Na2SO4, filtered, and concentrated in vacuo. The resulting black oil was purified by column chromatography eluting with hexane then 90:10 hexane:ethyl acetate to afford 5-ethyl-2-(phenylethynyl)pyrimdine (770 mg, >100%) as a black oil. MS (EI ionization) 208 (M+). This material was carried on to the salt formation without further purification.

reactant | 2-Chloro-5-ethylpyrimdine | 3.5 mmol, 500 mg | ClC1=NC=C(C=N1)CC | C6H7ClN2
reactant | phenylacetylene | 14 mmol, 1.5 mL | C1(=CC=CC=C1)C#C | C8H6
reactant | phenylacetylene | 14 mmol, 1.5 mL | C1(=CC=CC=C1)C#C | C8H6
catalyst | n-Bu4NI | 10.4 mmol, 3.85 g | [N+](CCCC)(CCCC)(CCCC)CCCC.[I-]
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | PdCl2(PPh3)2 | 0.35 mmol, 250 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 1.06 mmol, 203 mg | [Cu]I
product | 5-ethyl-2-(phenylethynyl)pyrimdine | 770 mg, >100% | C(C)C=1C=NC(=NC1)C#CC1=CC=CC=C1 | C14H12N2
